US04017491
To a stirred suspension of 7 parts of sodamide in 90 parts of benzene maintained at 30°-35° C there is added a solution of α-phenyl-3-pyridylacetonitrile, described in U.S. Pat. No. 3,225,054 in 70 parts of benzene. The mixture is then refluxed for 1 hour, cooled and treated by portionwise addition with one equivalent of 2-morpholinoethyl chloride (J. Chem. Soc. pp 505, 1949) in 45 parts of xylene at 30°-40° C. The resulting mixture is refluxed for 2 hours, cooled, filtered and extracted with dilute hydrochloric acid. The acid extract is rendered alkaline and extracted with ether. The ether extract is treated with gaseous hydrogen chloride to yield the hydrochloride 2-phenyl-2-(3-pyridyl)-2-morpholinoethylbutyronitrile.

reactant | sodamide | [NH2-].[Na+]
reactant | benzene | C1=CC=CC=C1 | C6H6
reactant | α-phenyl-3-pyridylacetonitrile | C1(=CC=CC=C1)C(C#N)C=1C=NC=CC1 | C13H10N2
reactant | 2-morpholinoethyl chloride | one equivalent | O1CCN(CC1)CCCl | C6H12ClNO
solvent | xylene | C=1(C(=CC=CC1)C)C | C8H10
product | hydrochloride 2-phenyl-2-(3-pyridyl)-2-morpholinoethylbutyronitrile | C1(=CC=CC=C1)C(C#N)(C(C)CCN1CCOCC1)C=1C=NC=CC1.Cl | InChI=1S/C21H25N3O.ClH/c1-18(9-11-24-12-14-25-15-13-24)21(17-22,19-6-3-2-4-7-19)20-8-5-10-23-16-20;/h2-8,10,16,18H,9,11-15H2,1H3;1H
